data/mechanisms/records/IMS8-EQ8.13.json
{"mechanism_id": "IMS8-EQ8.13", "species": [{"species_id": "ethoxyethylidene_cation", "mapped_smiles": "[CH2:1]([1H:6])[CH2:2][O+:3]=[CH:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_acetaldehyde", "mapped_smiles": "[1H:6][O+:3]=[CH:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethoxyethylidene_cation"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "protonated_acetaldehyde"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 147, "equation": "8.13", "figure": null, "panel": null, "section": "8.2 Product stability"}, "confidence": 0.75, "curator_note": "EXPERIMENTAL CONTEXT: this is the dissociation of the mass-selected even-electron oxonium ion C2H5O+=CHCH3 (m/z 73), itself generated by EI alpha-cleavage of diethyl ether; not a 70 eV EI reaction of a molecular ion. The 'rH' label is a reaction-type mark (i = inductive, rH = H-rearrangement), NOT an electron-pushing arrow (0 arcs drawn). No abundance is printed for this channel; product left detected=false, peak status inferred. (Text: this m/z 45 HO+=CHCH3 is NOT isomeric C2H5O+.) Eq 8.13, lower ('rH') branch of the fork from C2H5O(+)=CHCH3 (m/z 73). Hydrogen rearrangement cleaving two bonds (text: cf. Eqs 4.43, 8.11; the higher PA of acetaldehyde makes 8.13 favoured over 8.11): a beta-hydrogen (H6, on the terminal methyl C1) transfers to oxygen O3 while the C1-C2 double bond forms and the C2-O3 bond breaks, expelling neutral ethylene C2H4 (IE/PA 7.0 eV printed) and giving protonated acetaldehyde HO(+)=CHCH3 (m/z 45; text notes this m/z 45 ion is NOT the isomeric C2H5O+, confirmed by the C2H5OC2D5 labelling giving m/z 46 and 49). Encoded as a concerted 4-membered TS (O3-C2-C1-H6): move <1> C1-H6 bonding pair -> C1=C2 pi bond; move <2> C2-O3 bonding pair -> new O3-H6 sigma bond. Book draws 0 electron-pushing arcs; the page shows only the net reaction arrow labelled 'rH' and product formulae, so BOTH 2-electron moves are implied by the reaction type, not drawn. No percentage is printed for this channel on the page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "collision-activated dissociation (CAD)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 73.0648, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_45", "species_id": "protonated_acetaldehyde", "step_id": "step_hydrogen_rearrangement", "observed_mz": 45.0335, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
